US04835178
Preparation of 1-carboxy-3,4-methylenedioxy-8-hydroxyphenanthrene
1.0 g. 1-carboxy-3,4-methylenedioxy-8-methoxyphenanthrene is melted with 2.0 g. pyridine hydrochloride in an oil bath at 170° C. and maintained at this temperature for 1 hour while gassing with nitrogen. After cooling, the solidified mass is taken up with 10 liters 5% hydrochloric acid and extracted three times with 10 liter amounts of chloroform. The extracts are combined, washed neutral with water and dried by filtering through silanised filter paper (Whatman 1 PS). After evaporation of the solvent at 30° C. on a rotary evaporator, the mixture of starting material and hydrolysate is esterified for separation by boiling under reflux for 3 hours with a mixture of 2.5 liters methanol and 0.1 liter concentrated sulphuric acid. The reaction mixture is then poured into 10 liters of water and the aqueous methanolic phase shaken out three times with 10 liter amounts of diisopropyl ether. The organic solvent, after having been washed several times with water, is extracted with 10 liters of sodium hydroxide solution, the methyl ester of the 8-methoxy compound remaining in the organic phase, whereas the 8-hydroxy compound is transferred into the aqueous phase, with simultaneous hydrolysis of the ester. After washing with fresh diisopropyl ether, the alkaline phase is acidified and shaken out several times with chloroform. The chloroform solution is dried over phase separation paper (Whatman 1 PS) and the solvent stripped off on a rotary evaporator, 1-carboxy-3,4-methylenedioxy-8-hydroxyphenanthrene remaining behind in solid form as a thin layer chromatographically-uniform compound.

reactant | 1-carboxy-3,4-methylenedioxy-8-methoxyphenanthrene | C(=O)(O)C1=CC2=C(C=3C4=CC=CC(=C4C=CC13)OC)OCO2 | C17H12O5
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
solvent | hydrochloric acid | 10 liters | Cl | ClH
product | 1-carboxy-3,4-methylenedioxy-8-hydroxyphenanthrene | C(=O)(O)C1=CC2=C(C=3C4=CC=CC(=C4C=CC13)O)OCO2 | C16H10O5
